US08980913B2
Step 1: Methyl 4-(1,3-dioxolan-2-yl)benzoate
To stirred solution of methyl 4-formylbenzoate (5.0 g, 30.46 mmol) in toluene (196 mL) was added ethylene glycol (8.49 mL, 152.3 mmol) and para-toluenesulfonic acid monohydrate (0.58 g, 3.05 mmol). The reaction mixture was heated at reflux under Dean and Stark conditions for 1.5 hours. The solvent was evaporated at reduced pressure and the residue partitioned between ethyl acetate and saturated aqueous sodium hydrogen carbonate. The organic phase was removed and washed with further saturated aqueous sodium hydrogen carbonate, brine and dried (magnesium sulfate). The mixture was filtered and the solvent evaporated at reduced pressure to afford the title compound (6.29 g, 99%).

reactant | methyl 4-formylbenzoate | 30.46 mmol, 5.0 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | ethylene glycol | 152.3 mmol, 8.49 mL | C(CO)O | C2H6O2
reactant | para-toluenesulfonic acid monohydrate | 3.05 mmol, 0.58 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 196 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-(1,3-dioxolan-2-yl)benzoate | 6.29 g, 99% | O1C(OCC1)C1=CC=C(C(=O)OC)C=C1 | C11H12O4
